US07618978B2
[2-(3,5-Difluorophenyl)-1-(S)-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester
Dissolve commercially available 2-(S)-tert-butoxycarbonylamino-3-(3,5-difluorophenyl)propionic acid (5.995 g, 19.9 mmol) in ethylene glycol dimethyl ether (20 mL) and cool −20° C. Add 4-methylmorpholine (2.4 mL, 21.89 mmol) and stir 5 min, then add isobutyl chloroformate (2.9 mL, 21.89 mmol) dropwise and stir 5 min. Filter into −15° C. cooled flask with course frit, rinse with cold ethylene glycol dimethyl ether. Add sodium borohydride (1.129 g, 29.85 mmol) in water (9 mL) followed by water (500 mL), then warm to room temperature. Filter and dissolve solid in dichloromethane. Wash with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound as a solid (4.57 g, 80%).

reactant | 2-(S)-tert-butoxycarbonylamino-3-(3,5-difluorophenyl)propionic acid | 19.9 mmol, 5.995 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=CC(=C1)F)F | C14H17F2NO4
reactant | 4-methylmorpholine | 21.89 mmol, 2.4 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 21.89 mmol, 2.9 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 29.85 mmol, 1.129 g | [BH4-].[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 9 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | [2-(3,5-Difluorophenyl)-1-(S)-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester | 4.57 g, 80% | C(C)(C)(C)OC(N[C@@H](CC1=CC(=CC(=C1)F)F)CO)=O | C14H19F2NO3
